US05585394
5-Ethoxy-1,3-dihydro-(2-methoxy-4-benzyloxycarbonylbenzenesulfonyl)-3-cyclohexyl-2H-benzimidazol-2-one
0.5 g of sodium hydride as a 60% dispersion in oil was added in small portions, at room temperature, to a solution of 2.4 g of 5-ethoxy-3-cyclohexyl-1,3-dihydro-2H-benzimidazol-2-one in 50 ml of THF and 50 ml of DMF and the mixture was stirred for half an hour, still at room temperature. 3.4 g of 2-methoxy-4-benzyloxycarbonylbenzenesulfonyl chloride were then added and the reaction medium was stirred for 4 hours at room temperature. It was concentrated under vacuum to remove the residual THF and the residue was taken up with water. It was then extracted with AcOEt and washed with water and the organic phase was dried over sodium sulfate and concentrated under vacuum. The residue obtained was then purified by chromatography on silica using DCM as the eluent. 4.2 g of the expected product were obtained in the form of a white solid by crystallization from iso ether. M.p.=131° C.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 5-ethoxy-3-cyclohexyl-1,3-dihydro-2H-benzimidazol-2-one | 2.4 g | C(C)OC1=CC2=C(NC(N2C2CCCCC2)=O)C=C1 | C15H20N2O2
reactant | 2-methoxy-4-benzyloxycarbonylbenzenesulfonyl chloride | 3.4 g | COC1=C(C=CC(=C1)C(=O)OCC1=CC=CC=C1)S(=O)(=O)Cl | C15H13ClO5S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-Ethoxy-1,3-dihydro-(2-methoxy-4-benzyloxycarbonylbenzenesulfonyl)-3-cyclohexyl-2H-benzimidazol-2-one | 4.2 g | C(C)OC1=CC2=C(N(C(N2C2CCCCC2)=O)S(=O)(=O)C2=C(C=C(C=C2)C(=O)OCC2=CC=CC=C2)OC)C=C1 | C30H32N2O7S
